US05710242
Quinoxaline was hydrogenated at 60 psi, 50° C. with PtO2 catalyst in ethanol to produce 1,2,3,4-terahydroquinoxaline (THQ).

reactant | Quinoxaline | N1=CC=NC2=CC=CC=C12 | C8H6N2
catalyst | PtO2 | O=[Pt]=O
solvent | ethanol | C(C)O | C2H6O
product | 1,2,3,4-terahydroquinoxaline | 75% yield | N1CCNC2=CC=CC=C12 | C8H10N2
